US04001244
To a suspension of 20 parts of lithium aluminum hydride in 444 parts of tetrahydrofuran and 177 parts of ethyl ether is added portionwise, over a 1 hour period, a warm solution of 56 parts of 3-benzyloxy-4-methoxy-β-nitrostyrene in 267 parts of tetrahydrofuran. The reaction mixture is refluxed for an additional 2 hours, then is cooled in ice and decomposed by adding 40 parts of water in 71 parts of tetrahydrofuran, followed by 40 parts by volume of a 25% by weight aqueous sodium hydroxide solution, followed by 40 parts of water. The salts are removed by filtration and the filtrate is dried over anhydrous calcium sulfate and stripped of solvent under reduced pressure to afford, as an oil, 3-benzyloxy-4-methoxyphenethylamine.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzyloxy-4-methoxy-β-nitrostyrene | C(C1=CC=CC=C1)OC=1C=C(C=C[N+](=O)[O-])C=CC1OC | C16H15NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3-benzyloxy-4-methoxyphenethylamine | C(C1=CC=CC=C1)OC=1C=C(CCN)C=CC1OC | C16H19NO2
